* 5T_OTA (Auto-generated)
.subckt 5T_OTA VDD Vout Vin Vip VSS
XM1 Vx Vip Vc Vc sky130_fd_pr__nfet_01v8 L=0.6 W=0.4791764755158679 nf=1 ad='int((1 + 1)/2) * 0.4791764755158679 / 1 * 0.29' as='int((1 + 2)/2) * 0.4791764755158679 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (0.4791764755158679 / 1 + 0.29)' ps='2*int((1 + 2)/2) * (0.4791764755158679 / 1 + 0.29)' nrd='0.29 / 0.4791764755158679 ' nrs='0.29 / 0.4791764755158679 ' sa=0
+ sb=0 sd=0 mult=1 m=1
XM2 Vout Vin Vc Vc sky130_fd_pr__nfet_01v8 L=0.6 W=0.4791764755158679 nf=1 ad='int((1 + 1)/2) * 0.4791764755158679 / 1 * 0.29' as='int((1 + 2)/2) * 0.4791764755158679 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (0.4791764755158679 / 1 + 0.29)' ps='2*int((1 + 2)/2) * (0.4791764755158679 / 1 + 0.29)' nrd='0.29 / 0.4791764755158679 ' nrs='0.29 / 0.4791764755158679 ' sa=0
+ sb=0 sd=0 mult=1 m=1
I0 Vc VSS 4.564155864925481u
XM3 Vx Vx VDD VDD sky130_fd_pr__pfet_01v8 L=0.6 W=0.4253792599692709 nf=1 ad='int((1 + 1)/2) * 0.4253792599692709 / 1 * 0.29' as='int((1 + 2)/2) * 0.4253792599692709 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (0.4253792599692709 / 1 + 0.29)' ps='2*int((1 + 2)/2) * (0.4253792599692709 / 1 + 0.29)' nrd='0.29 / 0.4253792599692709 ' nrs='0.29 / 0.4253792599692709 ' sa=0
+ sb=0 sd=0 mult=1 m=1
XM4 Vout Vx VDD VDD sky130_fd_pr__pfet_01v8 L=0.6 W=0.4253792599692709 nf=1 ad='int((1 + 1)/2) * 0.4253792599692709 / 1 * 0.29' as='int((1 + 2)/2) * 0.4253792599692709 / 1 * 0.29'
+ pd='2*int((1 + 1)/2) * (0.4253792599692709 / 1 + 0.29)' ps='2*int((1 + 2)/2) * (0.4253792599692709 / 1 + 0.29)' nrd='0.29 / 0.4253792599692709 ' nrs='0.29 / 0.4253792599692709 ' sa=0
+ sb=0 sd=0 mult=1 m=1
.ends
